US04352808
Dissolve imidazole (37.44 gms., 550 mmols) in water (200 ml.) and add 5-chloro-2-(dimethylaminomethyl)coumaran-3-one hydrochloride (25 gms., 55 mmols). Stir the reaction mixture overnight at room temperature, then add water (2 liters) and extract with chloroform (1 liter). Wash the chloroform solution with another 2 liter portion of water, dry over anhydrous magnesium sulfate, filter and evaporate in vacuo to give 5-chloro-2-(1'-imidazolylmethyl)coumaran-3-one.

reactant | imidazole | 550 mmols, 37.44 gms | N1C=NC=C1 | C3H4N2
reactant | 5-chloro-2-(dimethylaminomethyl)coumaran-3-one hydrochloride | 55 mmols, 25 gms | Cl.ClC=1C=C2C(C(OC2=CC1)CN(C)C)=O
solvent | water | 200 ml | O | H2O
product | 5-chloro-2-(1'-imidazolylmethyl)coumaran-3-one | ClC=1C=C2C(C(OC2=CC1)CC=1NC=CN1)=O | C12H9ClN2O2
